Example circuit to read a Touchstone-format parameter file.

* This file contains an an analog filter circuit; SP is run
* and the S-parameters are saved in a file. 
* It then uses vector fitting for a *.nport file, serving the nport instance
* in a circuit that reproduces the original from its saved S-parameters.
* Results from the two versions are plotted together for comparison.

* Derived from: Qucs 1.0.2 C:/Users/Tom Hajjar/.qucs - S/S-parameter_files_ngspice_prj/137MHz_BPF.sch

* Original circuit for SP analysis
VP2 filter_out 0 dc 0 ac 0.316228 SIN(0 0.316228 136MEG) portnum 2 z0 50
VP1 _net1 0 dc 0 ac 0.316228 SIN(0 0.316228 136MEG) portnum 1 z0 50
C1 _net2 _net1  4.7P 
C5 _net3 filter_out  4.7P
C3 _net3 _net2  1P 
C4 _net3 0  15P 
C2 0 _net2  15P 
L2 0 _net3  66N 
L1 0 _net2  66N 

* input for both filters
VP11 in 0 dc 0 SIN(0 0.316228 136MEG)

* Original circuit for tran analysis
Ri in sin 50
C11 _net21 sin  4.7P 
C15 _net31 filter_out1  4.7P
C13 _net31 _net21  1P 
C14 _net31 0  15P 
C12 0 _net21  15P 
L12 0 _net31  66N 
L11 0 _net21  66N 
R12 filter_out1 0 50

* A version fitted from the extracted s-parameters using the nport device
ri2 in sin2 50
N1 sin2 np_model_out 0 mymodel
.model mymodel nport(file="new_137MHz_BPF.nport")
ro2 np_model_out 0 50

* Control section, run simulations.
.control
* Run an SP analysis, derive group delay, write a Touchstone file
* Use this Touchstone file for vector fitting by pre_snp, thus get a file 
* new_137MHz_BPF.nport
SP LIN 71 107MEG 167MEG ; extract S parameters
wrs2p  new_137MHz_BPF.s2p ; write S parameters
pre_snp -native new_137MHz_BPF.s2p ; read S parameters, fit, create new_137MHz_BPF.nport

tran 0.1n 1u
set xbrushwidth=3
plot filter_out1-np_model_out ; difference to compare
plot in filter_out1 np_model_out xlimit 0.8u 0.85u
.endc

.END
